US07030139B2
58B: N2-(cyclopropylmethyl)-5-nitro-2,3-pyridinediamine
To a solution of N-(cyclopropylmethyl)-3,5-dinitro-2-pyridinamine (1.17 g, 4.92 mmol) in EtOAc (50 mL) at room temperature was added Pd/C (394 mg, 0.25 mmol, 10% grade). The mixture was placed in a Parr apparatus under 35 psi H2. The mixture was shaken overnight. The reaction was filtered over Celite and concentrated in vacuo. The residue was purified using silica gel flash chromatography ([2.5% MeOH+1% NH4OH aq] in CH2Cl2) to provide 792 mg of the title compound N2-(cyclopropylmethyl)-5-nitro-2,3-pyridinediamine (77.3% yield from N-(cyclopropylmethyl)-3,5-dinitro-2-pyridinamine). 1H-NMR (400 MHz, CDCl3): δ 0.31 (m, 2H), 0.61 (m, 2H), 1.14 (m, 1H), 3.34 (br s, 2H), 3.42 (dd, J=5.3, 7.2 Hz, 2H), 5.15 (br s, 1H), 7.62 (d, J=2.5 Hz, 1H), 8.73 (d, J=2.5 Hz, 2H). MS (ESI) (M+H)+: 209.

reactant | N-(cyclopropylmethyl)-3,5-dinitro-2-pyridinamine | 4.92 mmol, 1.17 g | C1(CC1)CNC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C9H10N4O4
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.25 mmol, 394 mg | [Pd] | Pd
product | N2-(cyclopropylmethyl)-5-nitro-2,3-pyridinediamine | 77.3% yield | C1(CC1)CNC1=NC=C(C=C1N)[N+](=O)[O-] | C9H12N4O2
